US04337341
A solution of 1.5 g. of 4a-(3-hydroxyphenyl)-2,3,4,4a,5,6,7,7a-octahydro-1H-2-pyrindine in 15 ml. of N,N-dimethylformamide containing 1.0 g. of sodium bicarbonate and 0.95 g. of 2-tetrahydrofurylmethyl bromide was heated at reflux for four hours. After cooling the reaction mixture to about 25° C., the mixture was extracted several times with diethyl ether. The ethereal extracts were combined, washed with water, and dried. Removal of the solvent by evaporation under reduced pressure provided 4a-(3-hydroxyphenyl)-2-(2-tetrahydrofurylmethyl)-2,3,4,4a,5,6,7,7a-octahydro-1H-2-pyrindine as an oil. The oil so formed was dissolved in diethyl ether and added to a solution of hydrogen bromide gas in diethyl ether. The product crystallized out of solution and was collected by filtration to provide 1.0 g. of 4a-(3-hydroxyphenyl)-2-(2-tetrahydrofurylmethyl)-2,3,4,4a,5,6,7,7a-octahydro-1H-2-pyrindinium bromide. M.P. 190°-192° C.

reactant | 4a-(3-hydroxyphenyl)-2,3,4,4a,5,6,7,7a-octahydro-1H-2-pyrindine | OC=1C=C(C=CC1)C12CCNCC2CCC1 | C14H19NO
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
reactant | 2-tetrahydrofurylmethyl bromide | O1C(CCC1)CBr | C5H9BrO
solvent | N,N-dimethylformamide | 1.0 g | CN(C=O)C | C3H7NO
product | 4a-(3-hydroxyphenyl)-2-(2-tetrahydrofurylmethyl)-2,3,4,4a,5,6,7,7a-octahydro-1H-2-pyrindine | OC=1C=C(C=CC1)C12CCN(CC2CCC1)CC1OCCC1 | C19H27NO2
